US07491827B2
4-[4-(2-Methyl-benzoylamino)-5-oxo-5,6,7,8-tetrahydro-naphthalene-1-sulfonylamino]-piperidine-1-carboxylic acid ethyl ester (J-43)
4-[4-(2-Methyl-benzoylamino)-5,6,7,8-tetrahydro-naphthalene-1-sulfonylamino]-piperidine-1-carboxylic acid ethyl ester (1.12 g, 2.24 mmol) was dissolved in acetone (25 mL) and a 15% aqueous solution of magnesium sulfate(2.5 mL). The solution was cooled in an ice bath and potassium permanganate (1.9 g, 12.3 mmol) was added and the solution was stirred for 15 min at which time the solution was allowed to warm to room temperature and stirred for 3 hr. The solution was concentrated and diluted with 150 mL water. The product was exhaustively extracted from the aqueous layer with methylene chloride. The organic was then washed with brine, dried over anhydrous magnesium sulfate, concentrated and purified on silica (Isco flash column, 0 to 40% ethyl acetate in hexane). The title compound was isolated in 17% yield (200 mg).

reactant | 4-[4-(2-Methyl-benzoylamino)-5,6,7,8-tetrahydro-naphthalene-1-sulfonylamino]-piperidine-1-carboxylic acid ethyl ester | 2.24 mmol, 1.12 g | C(C)OC(=O)N1CCC(CC1)NS(=O)(=O)C1=CC=C(C=2CCCCC12)NC(C1=C(C=CC=C1)C)=O | C26H33N3O5S
reactant | magnesium sulfate | 2.5 mL | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | potassium permanganate | 12.3 mmol, 1.9 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | 4-[4-(2-Methyl-benzoylamino)-5-oxo-5,6,7,8-tetrahydro-naphthalene-1-sulfonylamino]-piperidine-1-carboxylic acid ethyl ester | 17% yield | C(C)OC(=O)N1CCC(CC1)NS(=O)(=O)C1=CC=C(C=2C(CCCC12)=O)NC(C1=C(C=CC=C1)C)=O | C26H31N3O6S
